Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___.
 
Chief Complaint:
fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Oncologist: Dr. ___
.
Chief Complaint: fevers
.
History of Present Illness: Patient is a ___ year old female with 
PMHx of erythroleukemia s/p allogeneic transplant in ___, 
chronic GVHD of skin and lungs, who presents with fevers. 
Patient started noticing increasing shortness of breath starting 
___ as she was using her albuterol inhaler a couple of 
times daily. She was also getting more short of breath with 
walking up stairs and to and from the bathroom. This morning, 
she woke up feeling "shaky" which progressed to having chills. 
These passed and when she took her temperature later in the day, 
noted a fever to 100.7 and called the clinic and came in. 
Appetite has been stable. She does admit to a mild headache this 
AM as well as rhinorrhea. She developed a mild non-productive 
cough yesterday. Denies sore throat, watery eyes, myalgias. She 
did have a recent Pulmonary appointment where they wanted her to 
start taking Symbicort, however she has yet to do this. Of note, 
her husband was sick with a URI starting on ___.
.
In clinic, was noted to have a fever to 100.1 ___s a BP of 
96/54. She was given 1 liter of normal saline, Azythromycin 
500mg, and tylenol ___ PO. Nasal washings and blood cultures 
were sent. Her repeat BP after IVF's was 104/51. Her Mg was 1.4 
so she received 2gm Magnesium Sulfate.
.
Currently, she feels better with no more nausea and an improving 
headache. Still with complaints of mild cough.
 
Past Medical History:
___ female with history of AML. She is status post 
allogeneic stem cell transplant from a sibling donor back in 
___. She is currently in disease remission. She has been 
monitored closely for chronic graft versus host disease of the 
skin and lungs. Her transplant course also has been complicated 
by a cardiac events. She has a hx of CAD s/p STEMI in ___ with 
DES in the RCA (___) and CABG (LIMA-LAD) (___), Was found to 
have two-vessel coronary artery disease with some stenosis as 
described above. She ultimately ended up having stents placed in 
her RCA, and she was also noted to have 98% blockage in her LAD 
in the mid area which was not initially addressed. She then 
underwent a second procedure with Dr. ___ to address this 
with a minimally invasive coronary artery bypass graft surgery 
with endoscopic takedown of her left internal mammary artery. 
This option was felt to be in her best interest given her severe 
allergic reaction to IV contrast dye. She also had an admission 
back in ___ for atrial fibrillation, and then had presented 
in ___ with acute abdominal pain, and was found to have 
diverticulitis with a perforated diverticulum. That course was 
complicated by an extended hospitalization with abdominal 
abscesses in the setting of abdominal surgery that she had for 
the ruptured diverticulum. In terms of her abdominal surgery, 
she did have a sigmoidectomy, ___ pouch and a colostomy. 
She did ultimately have this reversed in ___. She was found 
back in ___ to have a decline in her EF to 40-45% of 
unclear etiology. She continues to be followed closely by 
cardiology. Her ECHO was repeated in ___ and this was stable.
.
She also is followed by pulmonary. She has a history of gvhd of 
the lungs. She has had adjustments made to her steroids but has 
been on 10mg of Prednisone for a while now. In the late ___ she 
did have an exacerbation of her respiratory symptoms which was 
felt to be in part from gvhd as well as a respiratory infection. 
She did undergo pulmonary rehab. However, this ended a little 
early as her husband had a cardiac event around that time and 
she was going to his appointments. Some of her symptoms were 
also felt to be related in part to her cardiac history. Patient 
also missed her last appointment in ___ given what was 
going on with her husband. Also, of note back in ___ her 
DLCO went down to 70 (from 86). Her DLCO was repeated yesterday 
and noted to have improvement to 79. She also has resumed 
monthly B12 injections for a low normal B12 level and 
macrocytosis. Patient had a electrodessication and curettage to 
a lesion on her right anterior thigh back on ___ d/t a basal 
cell carcinoma that was identified back in ___. Patient 
presented to clinic about 10 days ago as was concerned that the 
area may be getting infected. Was unable to get in to see Derm 
and started on doxycycline. Area improved with antibiotics and 
repeat Dermatologic evaluation showed continued healing of 
wound.
.
Other PMH:
- Erythroleukemia, s/p allogeneic stem cell transplant from a
sibling donor ___.
- Chronic GVD of lungs and skin perforated diverticulum leading 
to sigmoid resection, ___ procedure and end colostomy. (___). Had reversal in ___.
- CAD, STEMI in ___ s/p PCI/stenting to RCA
- perisurgical PAfib with RVR ___
- Endoscopic CABG x 1 ___
- RCA stent ___
- Hypertension
- Hypercholesterolemia
- GERD
- Type two diabetes mellitus
- Diverticulosis
- Occasional bronchospasm
- History of SVC clot ___ PORT (s/p course of lovenox)
- History of C.Diff ___ & ___
- History of VRE
- History of Shingles
- History of Asthma
- basal cell carcinoma-s/p electrodessication and curettage on
___
- tonsillectomy at the age of ___;
- D&C for question of some polyps back in ___
 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
Afebrile, VSS
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, no sinus 
tenderness
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNs2-12 intact, motor function grossly normal
 
Pertinent Results:
Admission Labs:

___ 12:15PM BLOOD WBC-12.2* RBC-4.42 Hgb-15.1 Hct-47.1 
MCV-107* MCH-34.1* MCHC-32.0 RDW-13.7 Plt ___
___ 12:15PM BLOOD Neuts-72.5* ___ Monos-6.0 Eos-2.9 
Baso-0.4
___ 06:00AM BLOOD ___ PTT-23.8 ___
___ 12:15PM BLOOD UreaN-14 Creat-1.2* Na-139 K-4.2 Cl-99 
HCO3-29 AnGap-15
___ 12:15PM BLOOD ALT-28 AST-23 LD(LDH)-263* AlkPhos-48 
TotBili-0.5 DirBili-0.2 IndBili-0.3
___ 12:15PM BLOOD Calcium-9.7 Phos-2.4* Mg-1.4*
___ 12:15PM BLOOD IgG-491* IgA-53* IgM-48

Blood Cx x2 - Pending at the time of discharge

Nasopharyngeal Swab:
Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture for further 
information. 

CT Sinus ___:
FINDINGS: The paranasal sinuses and mastoid air cells are well 
aerated. The
ostiomeatal units are patent bilaterally. Note is made of a 
small right
Haller cell. The nasal septum is slightly deviated towards the 
right, but
intact.
 
The cribriform plates are intact bilaterally. The lamina 
papyracea is intact
bilaterally. The sphenoid sinus septum deviates toward the left, 
inserting
along the area of the left cavernous carotid canal. There are no 
fractures
identified. The imaged soft tissues are unremarkable.
 
IMPRESSION: Minimal mucosal thickening in the right frontal 
sinus.
Otherwise, clear sinuses.

CXR ___:
FINDINGS: There is no focal consolidation, pleural effusion, or 
pneumothorax.
Sclerosis at the site of a prior right fifth rib fracture is 
increased
compared to prior, consistent with healing. Double contour of 
the thoracic
aorta is unchanged and consistent with known thoracic aortic 
pseudoaneurysm.
Coronary artery stent and vascular clips are again visualized. 
Left mid lung
scarring is unchanged compared to prior. Heart size is normal. 
Mild mid
thoracic spine degenerative changes are stable.
 
IMPRESSION: No evidence for acute process.

Discharge Labs:

___ 06:00AM BLOOD WBC-6.5 RBC-3.48* Hgb-12.1 Hct-37.0 
MCV-106* MCH-34.6* MCHC-32.5 RDW-13.6 Plt ___
___ 06:00AM BLOOD Neuts-58.2 ___ Monos-9.9 Eos-3.8 
Baso-0.4
___ 06:00AM BLOOD ___ PTT-22.8 ___
___ 06:00AM BLOOD Glucose-96 UreaN-11 Creat-1.1 Na-140 
K-4.5 Cl-105 HCO3-28 AnGap-12
___ 06:00AM BLOOD ALT-19 AST-18 LD(LDH)-179 AlkPhos-36 
TotBili-0.5
___ 06:00AM BLOOD Calcium-8.6 Phos-2.2* Mg-2.___ year old female with PMHx of erythroleukemia s/p allogeneic 
transplant in ___ who presented with symptoms of viral URI and 
fevers.  She was started on azithromycin and monitored in the 
hospital.  She had no evidence of infection, and nasopharyngeal 
swab and blood cultures were negative.  The patient did have 
sinus pain on hospital day #2, however CT Sinus showed no 
evidence of infection.  The patient felt much improved the next 
day and was discharge home to finish a course of azithromycin.  
Was tolerating good PO intake and ambulating well on discharge.  
She was instructed to begin her Symbicort as per Pulmonology on 
discharge as well.

Transitional Issues:
- f/u pending blood cultures
 
Medications on Admission:
ACYCLOVIR - 400 mg Tablet - 1 Tablet(s) by mouth twice a day
ALBUTEROL SULFATE [PROVENTIL HFA] - 90 mcg HFA Aerosol Inhaler -
___ puffs every four (4) hours as needed for shortness of breath
or wheezing
ALENDRONATE - (Prescribed by Other Provider) - 70 mg Tablet - 1
Tablet(s) by mouth weekly
ATORVASTATIN [LIPITOR] - 40 mg Tablet - 2 (Two) Tablet(s) by
mouth DAILY (Daily) pt has difficulty swallowing
DOXYCYCLINE HYCLATE - 100 mg Capsule - 1 (One) Capsule(s) by
mouth twice a day for 10 days
LISINOPRIL - 2.5 mg Tablet - 1 Tablet(s) by mouth once a day
LORAZEPAM [ATIVAN] - 0.5 mg Tablet - ___ Tablet(s) by mouth q4-6
hours as needed for nausea, anxiety, insomnia
METFORMIN - (Prescribed by Other Provider) - 1,000 mg Tablet - 1
Tablet(s) by mouth twice a day
METOPROLOL SUCCINATE - 25 mg Tablet Extended Release 24 hr - 1
Tablet(s) by mouth once a day
PREDNISONE - 10 mg Tablet - 1 (One) Tablet(s) by mouth once a 
day
Reduced to 7.5mg po daily.
Medications - OTC
ASPIRIN - (Dose adjustment - no new Rx) - 81 mg Tablet, Delayed
Release (E.C.) - 2 Tablet(s) by mouth DAILY (Daily)
CALCIUM CARBONATE [CALCIUM 600] - (Prescribed by Other Provider)
- Dosage uncertain
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D] - (Prescribed by Other
Provider) - 1,000 unit Capsule - 1 Capsule(s) by mouth once a 
day
OMEPRAZOLE MAGNESIUM [PRILOSEC OTC] - (OTC) - 20 mg Tablet,
Delayed Release (E.C.) - 1 Tablet(s) by mouth twice a day
 
Discharge Medications:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO twice a day.  
2. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every four (4) hours as needed for 
shortness of breath or wheezing.  
3. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

4. atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO once a day.  

5. azithromycin 250 mg Tablet Sig: One (1) Tablet PO once a day 
for 2 days.
Disp:*2 Tablet(s)* Refills:*0*
6. Symbicort 80-4.5 mcg/Actuation HFA Aerosol Inhaler Sig: One 
(1) puff Inhalation twice a day.  
7. lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
8. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for nausea, anxiety, insomnia.  
9. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
10. metoprolol succinate 25 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
11. pentamidine 300 mg Recon Soln Sig: Three Hundred (300) mg 
inhaled Inhalation once a month: x6 months. Mixed in 6mL water. 
2 puffs albuterol prior to treatment PRN.  
12. prednisone 5 mg Tablet Sig: 1.5 Tablets PO once a day.  
13. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO once a day.  
14. calcium carbonate  Oral
15. Vitamin D 1,000 unit Capsule Sig: One (1) Capsule PO once a 
day.  
16. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Viral upper respiratory infection, chronic graft versus 
host disease of the lungs

Secondary: hypertension, diabetes mellitus II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

 It was a pleasure taking care of you during your 
hospitalization.  You were admitted with fevers and a cough.  We 
checked a viral swab to screen for flu and other viruses which 
was initially negative.  You were having sinus pain so we 
checked a CT scan of your sinuses which showed no evidence of 
sinus disease.  You were feeling better and did not have any 
more fevers while in the hospital.  You will need to finish the 
antibiotic you are on.

We added one medication:
Azithromycin 250mg by mouth for 2 more days

You should start the Symbicort as it was previously prescribed 
by the Pulmonologists.
We did not make any other changes to your medications.
Please follow-up with the scheduled appointment below
 
Followup Instructions:
___